US07915261B2
Methyl 5-({[4-(2-phenylethyl)piperidin-1-yl]carbonyl}oxy)nicotinate (3.95 g) was dissolved in THF (32 ml) and methanol (16 ml), and under ice cooling, aqueous 1 M sodium hydroxide solution (16 ml) was dropwise added thereto. This was stirred at room temperature for 30 minutes, and under ice cooling, this was neutralized with 1 M hydrochloric acid (16 ml). The colorless solid precipitated was collected by filtration, and recrystallized from methanol/water to obtain 5-({[4-(2-phenylethyl)piperidin-1-yl]carbonyl}oxy)nicotinic acid (3.70 g).

reactant | Methyl 5-({[4-(2-phenylethyl)piperidin-1-yl]carbonyl}oxy)nicotinate | 3.95 g | C1(=CC=CC=C1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)OC)C1 | C21H24N2O4
reactant | sodium hydroxide | 1 M, 16 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 16 ml | Cl | ClH
solvent | THF | 32 ml | C1CCOC1 | C4H8O
solvent | methanol | 16 ml | CO | CH4O
product | 5-({[4-(2-phenylethyl)piperidin-1-yl]carbonyl}oxy)nicotinic acid | 3.70 g | C1(=CC=CC=C1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)O)C1 | C20H22N2O4
